US06680317B2
N-(2-Bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 1, N-(2-bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]carbodiimide (385 mg, 0.79 mmol), cyanamide (133 mg, 3.16 mmol) and N,N-diisopropylethylamine (127 mg, 0.95 mmol) were reacted, followed by desilylation with Cesium fluoride (144 mg, 0.95 mmol) to form the desired product (100 mg, 26%). EI-MS m/z 515 (M+).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-(2-bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]carbodiimide | 0.79 mmol, 385 mg | BrC1=C(C=CC=C1)N=C=NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O[Si](C)(C)C(C)(C)C | C22H28BrClN4O4SSi
reactant | cyanamide | 3.16 mmol, 133 mg | N#CN | CH2N2
reactant | N,N-diisopropylethylamine | 0.95 mmol, 127 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Cesium fluoride | 0.95 mmol, 144 mg | [F-].[Cs+]
product | N-(2-Bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]cyanoguanidine | 100 mg, 26% | BrC1=C(C=CC=C1)N(C(=N)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O[Si](C)(C)C(C)(C)C)C#N | C23H30BrClN6O4SSi
